US07202255B2
Step A: 1-(Benzhydryloxy)-2-nitrobenzene
To a solution of dry ortho-nitrophenol (79 mmol) in 200 ml of acetone there are added 127 mmol of potassium carbonate and also 79 mmol of diphenylmethane bromide. The reaction mixture is heated at reflux for 6 hours and, after the temperature has been lowered to ambient temperature, is stirred further overnight. The reaction mixture is filtered and rinsed with acetone. The filtrate is evaporated and then taken up in diethyl ether and hydrolysed. The aqueous phase is extracted with diethyl ether; the organic phase is then dried over magnesium sulphate, filtered and concentrated. The residue obtained is taken up in petroleum ether, filtered, rinsed with petroleum ether and then dried in vacuo, allowing the expected product to be isolated.

reactant | ortho-nitrophenol | 79 mmol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | potassium carbonate | 127 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | diphenylmethane bromide | 79 mmol | [Br-].C1(=CC=CC=C1)CC1=CC=CC=C1
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(Benzhydryloxy)-2-nitrobenzene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C19H15NO3
